US06747030B1
N-(4-Acetyl-2-bromophenyl)-N-(2-methylallyl)acetamide (D39)
N-(4-Acetyl-2-bromophenyl)acetamide (25 g, 0.1 mole) in dry DMF (250 ml) was treated with sodium hydride (60%, 4.5 g, 0.11 mole) at 25° C. under argon with stirring for 1 h. 3-Bromo-2-methylpropene (1.1 ml, 0.11 mole) was added and the mixture stirred for a further 16 h. The mixture was concentrated in vacuo and partitioned between water and Et2O. The organic phase was dried and concentrated in vacuo to give the title compound (32.8 g, 100%).

reactant | N-(4-Acetyl-2-bromophenyl)acetamide | 0.1 mole, 25 g | C(C)(=O)C1=CC(=C(C=C1)NC(C)=O)Br | C10H10BrNO2
reactant | sodium hydride | 0.11 mole, 4.5 g | [H-].[Na+]
reactant | 3-Bromo-2-methylpropene | 0.11 mole, 1.1 ml | BrCC(=C)C | C4H7Br
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | N-(4-Acetyl-2-bromophenyl)-N-(2-methylallyl)acetamide | 32.8 g, 100% | C(C)(=O)C1=CC(=C(C=C1)N(C(C)=O)CC(=C)C)Br | C14H16BrNO2
